data/oMe_Silver.jsonl
{"reaction_id": "NR-211_1-C_2-c1ccc(C)cc1_3-c1ccc(Cl)cc1_4-c1ccc(OC)cc1","level": "hard","name": "Passerini Reaction","reactants_smiles": ["C(=O)(C)c1ccc(C)cc1","[C-]#[N+]c1ccc(Cl)cc1","O=C(O)c1ccc(OC)cc1"],"products_smiles": ["O=C(c1ccc(OC)cc1)OC(C(=O)Nc1ccc(Cl)cc1)(C)c1ccc(C)cc1"],"conditions": "acid","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(C)c1ccc(C)cc1","step_weight": 0,"rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbon and making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "OC(C)(c1ccc(C)cc1)C(#[N+]c1ccc(Cl)cc1)","step_weight": 0,"rationale": "The isocyanide carbon, being nucleophilic due to its adjacent positive nitrogen, attacks the activated carbonyl carbon, forming a nitrilium intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(c1ccc(OC)cc1)OC(=[N]c1ccc(Cl)cc1)C(C)(c1ccc(C)cc1)O","step_weight": 0,"rationale": "The carboxylic acid oxygen attacks the electrophilic nitrilium carbon, favored by resonance stabilization of the resulting intermediate."},{"step": 4,"type": "proton_transfer","subtype": "intramolecular_proton_transfer","intermediate_smiles": "[OH]C2(c1ccc(OC)cc1)OC(=[N]c1ccc(Cl)cc1)C(C)(c1ccc(C)cc1)O2","step_weight": 0,"rationale": "Intramolecular proton transfer stabilizes charges and positions the leaving group for the next elimination step."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(c1ccc(OC)cc1)OC(C(=O)Nc1ccc(Cl)cc1)(C)c1ccc(C)cc1","step_weight": 0,"rationale": "Elimination of water occurs as the leaving group is stabilized by adjacent carbonyl, yielding the thermodynamically stable α-acyloxy amide."}],"description": "Under acidic conditions, the Passerini reaction proceeds via activation of the carbonyl, nucleophilic attack by isocyanide, and subsequent trapping by a carboxylic acid. Proton transfers and elimination steps drive the formation of the α-acyloxy amide product through stabilized intermediates."}
{"reaction_id": "NR-108_1-C_2-F_3-c1ccc(OC)cc1","name": "Hofmann-Löffler-Freytag Reaction","level": "medium","reactants_smiles": ["ClN(c1ccc(OC)cc1)CCCC(C)F"],"products_smiles": ["N(c1ccc(OC)cc1)CCCC(C)(F)(Cl)"],"conditions": "Heat or hv","mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[N](c1ccc(OC)cc1)CCCC(C)F","rationale": "Heat or light promotes homolytic N–Cl bond cleavage, favored by the weak bond and the stability of the nitrogen-centered radical through lone pair and adjacent substituent effects."},{"step": 2,"type": "rearrangement","subtype": "radical_rearrangement","intermediate_smiles": "N(c1ccc(OC)cc1)CCC[C](C)F","rationale": "The nitrogen radical abstracts a γ-hydrogen via a 1,5-hydrogen shift, favored by a six-membered transition state and minimal steric hindrance, generating a stabilized carbon radical."},{"step": 3,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "N(c1ccc(OC)cc1)CCCC(C)(F)(Cl)","rationale": "The carbon radical couples with a chlorine atom due to the strong C–Cl bond formation and the high reactivity of the radical, completing the intramolecular halogenation."}],"description": "Under photochemical or thermal conditions, the Hofmann–Löffler–Freytag reaction proceeds via nitrogen-centered radical formation, intramolecular hydrogen abstraction to form a carbon radical, and radical halogenation to yield the chlorinated amine product with high regioselectivity due to favorable 1,5-hydrogen transfer."}
